US07888352B2
5-(6-((4-(N-methyl,N-methylsulfonylamino)piperidin-1-yl)methyl)-4-morpholinothieno[3,2-d]pyrimidin-2-yl)pyridin-2-amine 292
A suspension of N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide (148 mg, 0.32 mmol), 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine (86 mg, 0.39 mmol), 1M Na2CO3 (1 ml, 1 mmol) and Pd(PPh3)2Cl2 (21 mg, 0.03 mmol) in acetonitrile was heated in a microwave at 140° C. for 25 mins. The reaction was then acidified with 2N HCl (aq) extracted with ethyl acetate, the water layer separated and basified with K2CO3 (sat. aq) resulting in a white precipitate as 292 which was filtered and dried (120 mg, 72%). NMR (DMSO, 400 MHz), 1.62-1.67 (2H, m), 1.74-1.82 (2H, m), 2.18-2.24 (2H, m), 2.77 (3H, s), 2.95 (3H, s), 2.97-3.03 (2H, m), 3.57-3.66 (1H, m), 3.85 (4H, t, J=4.4), 3.89 (2H, s), 4.00 (4H, t, J=4.4), 6.37 (2H, s), 6.56 (1H, d, J=8.8), 7.36 (1H, s), 8.34 (1H, dd, J=8.8, 2.4), 8.99 (1H, d, J=2.4). MS: (ESI+): MH+518

reactant | N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide | 0.32 mmol, 148 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N(S(=O)(=O)C)C)N2CCOCC2 | C18H26ClN5O3S2
reactant | 5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine | 0.39 mmol, 86 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | Na2CO3 | 1 mmol, 1M, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.03 mmol, 21 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(6-((4-(N-methyl,N-methylsulfonylamino)piperidin-1-yl)methyl)-4-morpholinothieno[3,2-d]pyrimidin-2-yl)pyridin-2-amine | CN(S(=O)(=O)C)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C=1C=CC(=NC1)N | C23H31N7O3S2
